US06169107A
A mixture of 10.0 g (53.5 mmol) of 4-bromo-3-methylphenol, 50 ml of acetic acid and 10 ml of water was stirred under cooling at 0 to 5° C. To the resulting mixture was dropwise added 3.71 g (58.8 mmol) of 70% nitric acid. After completion of the dropwise addition, the mixture was stirred at room temperature for about an hour. The reaction solution was then poured onto ice water. The mixture was extracted three times with diethyl ether. The combined extracts were washed with water. After drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The resulting residue was purified by silica gel column chromatography to obtain 1.70 g (13.7%) of 4-bromo-3-methyl-2-nitrophenol.

reactant | 4-bromo-3-methylphenol | 53.5 mmol, 10.0 g | BrC1=C(C=C(C=C1)O)C | C7H7BrO
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
reactant | nitric acid | 58.8 mmol, 3.71 g | [N+](=O)(O)[O-] | HNO3
solvent | water | 10 ml | O | H2O
product | 4-bromo-3-methyl-2-nitrophenol | 1.70 g, 13.7% | BrC1=C(C(=C(C=C1)O)[N+](=O)[O-])C | C7H6BrNO3
